### PR TITLE
feat: BitVec.{toInt, toFin, msb}_udiv

### PR DESCRIPTION
**Pull request by alexkeizer**
This PR adds a `toFin` and `msb` lemma for unsigned bitvector division. We *don't* have `toInt_udiv`, since the only truly general statement we can make does no better than unfolding the definition, and it's not uncontroversially clear how to unfold `toInt` (see `toInt_eq_msb_cond`/`toInt_eq_toNat_cond`/`toInt_eq_toNat_bmod` for a few options currently provided). Instead, we do have `toInt_udiv_of_msb` that's able to provide a more meaningful rewrite given an extra side-condition (that `x.msb = false`).

This PR also upstreams a minor `Nat` theorem (`Nat.div_le_div_left`) needed for the above from Mathlib.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2562,6 +2575,52 @@ theorem udiv_self {x : BitVec w} :
       ↓reduceIte, toNat_udiv]
     rw [Nat.div_self (by omega), Nat.mod_eq_of_lt (by omega)]
 
+private theorem Nat.div_le_div_left (hcb : c ≤ b) (hc : 0 < c) : a / b ≤ a / c :=
+  (Nat.le_div_iff_mul_le hc).2 <|
+    Nat.le_trans (Nat.mul_le_mul_left _ hcb) (Nat.div_mul_le_self a b)
+
+private theorem Nat.div_add_le_right {z : Nat} (h : 0 < z) (x y : Nat) :
+    x / (y + z) ≤ x / z :=
+  Nat.div_le_div_left (by omega) h
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2584]: Should these become normal `Nat` theorems? Also, why are `z` and `x v` not declared in the same list of arguments.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2562,6 +2575,52 @@ theorem udiv_self {x : BitVec w} :
...
+
+theorem msb_udiv (x y : BitVec w) :
+    (x / y).msb = (x.msb && y == 1#w) := by
+  cases msb_x : x.msb
+  · simp [msb_eq_decide] at *
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2589]: Non-terminal simp

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (alexkeizer) [reply src/Init/Data/BitVec/Lemmas.lean:2584]: Since `z` can be inferred from the type of `h`, while `x` and `y` cannot. I also consciously put `h` first, since that argument will have to be provided when using this as a rewrite, while `x` and `y` may sometimes be inferred through unification

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2562,6 +2575,52 @@ theorem udiv_self {x : BitVec w} :
...
+private theorem Nat.div_le_div_left (hcb : c ≤ b) (hc : 0 < c) : a / b ≤ a / c :=
+  (Nat.le_div_iff_mul_le hc).2 <|
+    Nat.le_trans (Nat.mul_le_mul_left _ hcb) (Nat.div_mul_le_self a b)
+
+private theorem Nat.div_add_le_right {z : Nat} (h : 0 < z) (x y : Nat) :
+    x / (y + z) ≤ x / z :=
+  Nat.div_le_div_left (by omega) h
+
+theorem msb_udiv (x y : BitVec w) :
+    (x / y).msb = (x.msb && y == 1#w) := by
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply src/Init/Data/BitVec/Lemmas.lean:2587]: I'm curious what rule people use to determine whether variable should be explicit or implicit; I think we do this pretty inconsistently in the file at the moment.

For me, I try to make variables implicit only if they can be inferred from the other hypotheses, not including the lhs of an equality or bi-implication, but make sure that any explicit variables that *can* be inferred from the lhs come at the end of the argument list. Hence, `x` and `y` here are explicit.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (alexkeizer) [reply src/Init/Data/BitVec/Lemmas.lean]: Also, yes, these make sense as normal theorems; I moved them to `Nat.Div.Lemmas`

**Comment by alexkeizer** [comment]
> Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
> 
>     * ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1b15a0f27cfdedfc81470b1720f1d603417192e7 --onto a8a160b09147c3225150703ac727eea6ee9a3b0e`. (2024-12-16 15:24:36)

I tried to rebase on the suggested hash, but this fails because I've modified a file that didn't yet exist in that version. I could resolve the conflict, but that seems like it might cause annoying merge conflicts later down the line.

Regardless, I've upstreamed a Nat lemma (`Nat.div_le_div_left`), so Mathlib **will** break, but I've upstreamed the statement as-is, so the fix should be as easy as removing the Mathlib version of the lemma

**Comment by alexkeizer** [comment]
This should now be ready for review, but since I'm on holidays I'll keep it as a draft until I'm back and can respond to reviews timely. Hopefully by then `nightly-with-mathlib` will have caught up, and I can rebase on it without trouble.

**Comment by alexkeizer** [comment]
awaiting-review

I just rebased on nightly-with-mathlib also

**Comment by alexkeizer** [comment]
changelog-library

**Comment by kim-em** [comment]
Hm, that's said, the CI step checking labels didn't get triggered automatically. :-(

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:2646]: I agree it is ambiguous, and inconsistent.

Note, however, that at least for a bi-implication the standard (at least, as enforced by a linter in Batteries) is that variables appearing on both sides of a bi-implication should be implicit.

I tend to follow (erratically!) the same rule for equalities, too. 

Let's not get hung up on this for now.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2628,6 +2642,45 @@ theorem udiv_self {x : BitVec w} :
...
+            ≤ x.toNat / 2 := by apply Nat.div_add_le_right (by omega)
+          _ < 2 ^ w       := by omega
+
+theorem msb_udiv_eq_false_of {x : BitVec w} (h : x.msb = false) (y : BitVec w) :
+    (x / y).msb = false := by
+  simp [msb_udiv, h]
+
+/--
+If `x` is nonnegative (i.e., does not have its msb set),
+then `(x / y)` is nonnegative, thus `toInt` and `toNat` coincide.
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2678]:
```suggestion
then `x / y` is nonnegative, thus `toInt` and `toNat` coincide.
```
